US04048184
4-Chloro-6-(4-chlorophenyl)-2-methyl-2H-pyrazolo[3,4-b]pyridine
Following the procedure of Example 2, 37.8 g. of 6-(4-chlorophenyl)-2-methyl-2H-pyrazolo[3,4-b]pyridin-4-ol (0.146 mol.) and 165 ml. of phosphorus oxychloride yield 35.1 g. (86%) of 4-chloro-6-(4-chlorophenyl)-2-methyl-2H-pyrazolo[3,4-b]pyridine, recrystallized from ethanol; m.p. 177°-179°.

reactant | 6-(4-chlorophenyl)-2-methyl-2H-pyrazolo[3,4-b]pyridin-4-ol | 0.146 mol | ClC1=CC=C(C=C1)C=1C=C(C=2C(N1)=NN(C2)C)O | C13H10ClN3O
reactant | phosphorus oxychloride | yield 35.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(4-chlorophenyl)-2-methyl-2H-pyrazolo[3,4-b]pyridine | ClC=1C=2C(N=C(C1)C1=CC=C(C=C1)Cl)=NN(C2)C | C13H9Cl2N3
